US04352815
A mixture of 5.7 g (0.018 mol) of 3,4-dihydro-6-iodo-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione, 2.4 g (0.026 mol) of copper (I) cyanide and 60 ml of dimethylformamide is heated to 50° for 45 minutes. After cooling, the mixture is diluted with water and extracted several times with chloroform/isopropanol (4:1). The combined organic extracts are dried over magnesium sulphate and evaporated. The yellow-brown crude product is recrystallized from methanol, there being obtained 6-cyano-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione of melting point 253°-256° (decomposition).

reactant | 3,4-dihydro-6-iodo-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | 0.018 mol, 5.7 g | IC1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C10H9IN2O2
reactant | copper (I) cyanide | 0.026 mol, 2.4 g | [Cu]C#N
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-cyano-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | C(#N)C1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C11H9N3O2
